US06927221B2
1-(1-Ethylpropyl)-7-iodo-4-methyl-1H-pyrrolo[3,2-c]quinoline
Activated manganese dioxide (45 mg, 0.51 mmol) was added to a solution of 1-(1-ethylpropyl)-7-iodo-4-mesityl-2,3-dihydro-1H-pyrrolo[3,2-c]quinoline (39 mg, 0.10 mmol) in toluene (4.0 mL) and methylene chloride (4.0 mL), followed by heating under reflux for one day. The mixture was filtered through Celite and evaporated, to give the title compound (32 mg) as pale yellow crystals.

reactant | 1-(1-ethylpropyl)-7-iodo-4-mesityl-2,3-dihydro-1H-pyrrolo[3,2-c]quinoline | 0.10 mmol, 39 mg | C(C)C(CC)N1CCC=2C(=NC=3C=C(C=CC3C21)I)C2=C(C=C(C=C2C)C)C | C25H29IN2
solvent | toluene | 4.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 4.0 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 0.51 mmol, 45 mg | [O-2].[O-2].[Mn+4]
product | 1-(1-Ethylpropyl)-7-iodo-4-methyl-1H-pyrrolo[3,2-c]quinoline | 32 mg | C(C)C(CC)N1C=CC=2C(=NC=3C=C(C=CC3C21)I)C | C17H19IN2
